* source PILE_TEST_1
R_R5         0 VB  27k  
R_R12         0 VA  62k  
R_R13         VA VALIM+  22k  
R_R22         0 VS  33k  
C_C8         0 VA  22n  
X_U3A         VB VA VBATT 0 VOUT TLC274/101/TI
V_U2         VALIM+ 0 5Vdc
V_Vbatt         VBATT 0  
+PWL 0 0 0 0 
R_R14         VOUT VS  47k  
R_R11         VB VBATT  39k  
